US08106052B2
6-(4-Trifluoromethylbenzyloxy)-2-cyanobenzothiazole:
A suspension of 2-cyano-6-hydroxybenzothiazole (1.0 g, 5.68 mmol) in acetone (5 mL) was prepared in a 100-mL 2-necked round-bottomed flask fitted with a reflux condenser. Anhydrous potassium carbonate (0.94 g, 6.82 mmol) was added to the reaction mixture and the suspension turned to a yellow solution. Then 4-(trifluoromethyl)benzyl bromide (1.49 g, 6.25 mmol) was added and the reaction mixture was heated at reflux for 15 h using a heated stir plate and oil bath. The reaction mixture was allowed to cool to ambient temperature and then filtered to remove inorganic salts. The filtrate was concentrated by rotoevaporation to provide 1.7 g (89% yield) of an off-white solid that was used without purification. The structure was confirmed by 1H NMR analysis in DMSO-d6.

reactant | 2-cyano-6-hydroxybenzothiazole | 5.68 mmol, 1.0 g | C(#N)C=1SC2=C(N1)C=CC(=C2)O | C8H4N2OS
reactant | potassium carbonate | 6.82 mmol, 0.94 g | C([O-])([O-])=O.[K+].[K+]
reactant | 4-(trifluoromethyl)benzyl bromide | 6.25 mmol, 1.49 g | FC(C1=CC=C(CBr)C=C1)(F)F | C8H6BrF3
solvent | acetone | 5 mL | CC(=O)C | C3H6O
product | 6-(4-Trifluoromethylbenzyloxy)-2-cyanobenzothiazole | 1.7 g, 89% yield | FC(C1=CC=C(COC2=CC3=C(N=C(S3)C#N)C=C2)C=C1)(F)F | C16H9F3N2OS
